US07985753B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(5-methyl-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl)-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 5-Methyl-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidine to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 5-Methyl-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidine | CC1NCCC=2N=CN=CC21 | C8H11N3
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(5-methyl-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=C(N=CN=C1)CC2)C | C15H13BrN6O
